US05244889
The more polar major chiral isomer of N-[[trans 3-(acetylthiomethyl)-2-oxo-1-azacyclodecan-10-yl]-carbonyl]-(R)-4-benzyl-2-oxazolidinone (1.23 g, 2.75 mmol) is dissolved in tetrahydrofuran (45.0 mL) and water (15.0 mL), and the reaction is cooled to 0° C. Lithium hydroxide hydrate (0.116 g, 2.75 mmol) is added, and the reaction is stirred at 0° C. for 45 minutes. The solvent is then evaporated, and the residue is partitioned between saturated sodium bicarbonate and methylene chloride. The aqueous layer is extracted several times with methylene chloride, and then the aqueous layer is acidified with 2.5N hydrochloric acid to pH=3. The aqueous layer is extracted several times with ethyl acetate, the combined organic layers dried (MgSO4) and the solvent is evaporated, to give one enantiomer of trans 3-(acetylthiomethyl)-2-oxo-1-azacyclodecane-10-carboxylic acid, m.p. 144°-145° C.; [α]D +88.36° (c=6.9 mg/ml, CH2Cl2), which is assigned the 3R, 10S configuration.

reactant | N-[[trans 3-(acetylthiomethyl)-2-oxo-1-azacyclodecan-10-yl]-carbonyl]-(R)-4-benzyl-2-oxazolidinone | 2.75 mmol, 1.23 g | C(C)(=O)SC[C@@H]1C(N[C@H](CCCCCC1)C(=O)N1C(OC[C@H]1CC1=CC=CC=C1)=O)=O | C23H30N2O5S
reactant | Lithium hydroxide hydrate | 2.75 mmol, 0.116 g | O.[OH-].[Li+]
solvent | tetrahydrofuran | 45.0 mL | O1CCCC1 | C4H8O
solvent | water | 15.0 mL | O | H2O
product | trans 3-(acetylthiomethyl)-2-oxo-1-azacyclodecane-10-carboxylic acid | C(C)(=O)SC[C@@H]1C(N[C@H](CCCCCC1)C(=O)O)=O | C13H21NO4S
